* 35 us integration sequence: independent PWM edges, active RUN disable,
* AUX collapse while the gate is active, RUN low during AUX absence, AUX
* return while disarmed, then a fresh RUN/PWM enable.
.include authored_logic_hysteretic_slew.inc
Vaux aux15 0 PWL(0 15 20u 15 20.001u 0 27u 0 27.001u 15 35u 15)
Vpwm pwm 0 PWL(0 0 1u 0 1.001u 5 5u 5 5.001u 0 8u 0 8.001u 5 35u 5)
Vrun run 0 PWL(0 0 1u 0 1.001u 5 12u 5 12.001u 0 15u 0 15.001u 5 24u 5 24.001u 0 30u 0 30.001u 5 35u 5)
* Current matrix disable FET and PWM isolation, retained for interface shape.
Rsmallgate run smallgate 1k
Rsmallpd smallgate 0 100k
Rdisable aux15 disable 1k
Mdisable disable smallgate 0 0 DISABLE_FET
.model DISABLE_FET NMOS(VTO=1.5 KP=.1 RD=2 RS=2)
Csmallgs smallgate 0 60p
Csmallgd smallgate disable 10p
Csmallds disable 0 15p
Rpwm pwm pwm_input 1k
Rpwmpd pwm_input 0 10k
Xdriver disable pwm_input aux15 0 driver_out AUTH_UCC27511A_HS
Rgate driver_out gate 10
Rgs gate 0 10k
Cgate gate 0 12n
.tran 1n 35u
.control
set numdgt=17
set wr_singlescale
set wr_vecnames
run
wrdata authored-sequence.tsv v(run) v(disable) v(pwm_input) v(aux15) v(driver_out) v(gate) v(xdriver.pwm_state) v(xdriver.inm_state) v(xdriver.aux_state) v(xdriver.driver_req)
quit
.endc
.end
